US07632851B2
a) Benzo[1,2,5]oxadiazole-5-carboxylic acid [(2-fluoro-ethylcarbamoyl)-methyl]-amide
221 mg (1 mmol) [(benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid, 120 mg (1.2 eq.) 2-fluoroethylamine, 162 mg (1.2 eq.) HOBt and 230 mg (1.2 eq.) EDC.HCl are dissolved in 18 mL DMF and cooled to 5° C. 0.7 mL (4 eq.) Hünig's base are added under stirring, the reaction mixture is stirred for an additional 3 hours at room temperature then extracted with water and ethyl acetate. The combined organic phases are washed with brine, dried with sodium sulfate and evaporated to yield the desired product as a beige solid. MS (ES+): 267 (M+1).

reactant | [(benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid | 1 mmol, 221 mg | N1=C2C(=NO1)C=C(C=C2)C(=O)NCC(=O)O | C9H7N3O4
reactant | 2-fluoroethylamine | 120 mg, 1.2 eq. | FCCN | C2H6FN
reactant | HOBt | 162 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 230 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | Hünig's base | 0.7 mL, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | Benzo[1,2,5]oxadiazole-5-carboxylic acid [(2-fluoro-ethylcarbamoyl)-methyl]-amide | FCCNC(=O)CNC(=O)C=1C=CC=2C(=NON2)C1 | C11H11FN4O3
